US05639914
8.1 g (0.036 mol) of N-phenyl-p-tertiarybutylaniline, 7.3 g (0.018 mol) of 4,4'-diiodobiphenyl, 7.5 g (0.054 mol) of anhydrous potassium carbonate, and 0.53 g (0.008 mol) of copper powder were mixed. The mixture was then allowed to undergo reaction at a temperature of 210° to 225° C. for 12 hours. The reaction product was then extracted with 70 ml of toluene. The insoluble contents were removed by filtration. The filtrate was then concentrated to obtain an oily material. The crude product thus obtained was then purified by column chromatography (carrier: silica gel; elute: 1/4 mixture of toluene and n-hexane) to obtain 4.5 g (yield: 41.7%) of N,N'-bis(p-tertiarybutylphenyl)-N,N'-diphenylbenzidine. The melting point of the product was from 232.2° C. to 232.6° C.

reactant | N-phenyl-p-tertiarybutylaniline | 0.036 mol, 8.1 g | C1(=CC=CC=C1)NC1=CC=C(C=C1)C(C)(C)C | C16H19N
reactant | 4,4'-diiodobiphenyl | 0.018 mol, 7.3 g | IC1=CC=C(C=C1)C1=CC=C(C=C1)I | C12H8I2
reactant | potassium carbonate | 0.054 mol, 7.5 g | C([O-])([O-])=O.[K+].[K+]
catalyst | copper | 0.008 mol, 0.53 g | [Cu] | Cu
product | N,N'-bis(p-tertiarybutylphenyl)-N,N'-diphenylbenzidine | 4.5 g, yield: 41.7% | C(C)(C)(C)C1=CC=C(C=C1)N(C1=CC=C(C=C1)C1=CC=C(N(C2=CC=CC=C2)C2=CC=C(C=C2)C(C)(C)C)C=C1)C1=CC=CC=C1 | C44H44N2
